US05399613
The procedure of Production Example 1 was repeated except that resorcinol was used in-place of the pyrogallol, to give a resorcinol-acetone condensate with a melting point of 170°-180° C.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | pyrogallol | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
product | resorcinol acetone | C1(O)=CC(O)=CC=C1.CC(=O)C | InChI=1S/C6H6O2.C3H6O/c7-5-2-1-3-6(8)4-5;1-3(2)4/h1-4,7-8H;1-2H3
